US04515888
3-ethyl-2,5-dimethyl-6-methoxy-benzothiazole iodide
6 g of 2,5-dimethyl-6-methoxy-benzothiazole and 60 ml of ethyl iodide were reacted in a pressure flask heated to 100° C. on an oil bath for 3 days. After cooling, the raw product was washed by grinding with ether and acetone and dried in a desicator. It was then crystallized from ethanol, thus obtaining 54 g of a crystalline product melting at 249°-252° C.

reactant | 2,5-dimethyl-6-methoxy-benzothiazole | 6 g | CC=1SC2=C(N1)C=C(C(=C2)OC)C | C10H11NOS
reactant | ethyl iodide | 60 ml | C(C)I | C2H5I
product | 3-ethyl-2,5-dimethyl-6-methoxy-benzothiazole iodide | 54 g | [I-].C(C)N1C(SC2=C1C=C(C(=C2)OC)C)C | InChI=1S/C12H17NOS.HI/c1-5-13-9(3)15-12-7-11(14-4)8(2)6-10(12)13;/h6-7,9H,5H2,1-4H3;1H/p-1
